US04198354
In an autoclave of 1 liter capacity, fitted with a magnetic lift-stirrer, 113 g of vinylphosphonic acid dimethyl ester and 100 ppm of rhodium in the form of dimeric cycloocta-1,5-dienyl-rhodium chloride, in 600 ml of toluene as the solvent, are heated at 80° C. and reacted, under a pressure of 600 bars, with a mixture of carbon monoxide and hydrogen in the ratio of 1:1. The pressure is maintained for 12 hours by admitting further gas mixture. The reaction mixture is then allowed to cool under pressure, after which the autoclave is let down. The reaction mixture is worked up by distillation. 91 g of α-formylethane-phosphonic acid dimethyl ester, of boiling point 86°-90° C./0.1 mm Hg, are obtained.

reactant | vinylphosphonic acid dimethyl ester | 113 g | COP(OC)(=O)C=C | C4H9O3P
reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
catalyst | rhodium | [Rh] | Rh
catalyst | cycloocta-1,5-dienyl-rhodium chloride | C1(=CCCC=CCC1)[Rh](Cl)Cl
product | α-formylethane-phosphonic acid dimethyl ester | 91 g | COP(OC)(=O)C(C)C=O | C5H11O4P
